US07790737B2
A solution of 3,5-bis(trifluoromethyl)benzaldehyde (300 mg, 1.24 mmol) in anhydrous tetrahydrofuran (3 mL) was added with ethylmagnesium bromide (1.00 M solution in anhydrous tetrahydrofuran, 1.86 mL, 1.86 mmol) with stirring on an ice bath, and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was added with 1 M hydrochloric acid on an ice bath (pH<7), and then the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 1-[3,5-bis(trifluoromethyl)phenyl]-1-propanol (165 mg, 49%) as colorless solid.

reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 1.24 mmol, 300 mg | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | ethylmagnesium bromide | 1.86 mmol, 1.00 M, 1.86 mL | C(C)[Mg]Br
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-[3,5-bis(trifluoromethyl)phenyl]-1-propanol | 165 mg, 49% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CC)O)(F)F | C11H10F6O
